US07192982B2
(2S)-3-{4-[3-(2,4-Difluoro-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 2,4-difluorophenol and cleavage from the resin (Standard Procedure G) gave an oily solid.

reactant | (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | (2S)-3-{4-[3-(2,4-Difluoro-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid | FC1=C(OCCCOC2=CC=C(C=C2)C[C@@H](C(=O)O)OC)C=CC(=C1)F | C19H20F2O5
